US06051712
In an analogous manner to that described in Example 1 (g), by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-[4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl]-piperidine-1-carboxylate with 4-methylthio-benzyl chloride [J.Org.Chem. (1988), 53(3), 561-569] there was obtained tert-butyl (3RS,4RS)-3-(4-methylsulphanyl-benzyloxy)-4-[4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl]-piperidine-1-carboxylate as a yellowish oil; MS: 584 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-[4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl]-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC=1SC=CC1)C(=O)OC(C)(C)C | C24H33NO5S
reactant | 4-methylthio-benzyl chloride | CSC1=CC=C(CCl)C=C1 | C8H9ClS
product | tert-butyl (3RS,4RS)-3-(4-methylsulphanyl-benzyloxy)-4-[4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl]-piperidine-1-carboxylate | CSC1=CC=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC=2SC=CC2)C(=O)OC(C)(C)C)C=C1 | C32H41NO5S2
